US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-3,6-diethyl-N-(5-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting 5-bromo-3,6-diethyl-N-(5-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ) 7.51, 7.33, 7.23, 7.07, 6.81, 5.50, 4.68, 3.89, 2.87-2.80, 2.72-2.61, 2.12-2.01, 1.91, 1.30-1.19; HRMS (FAB) calcd for C25H27Cl2N3O+H 456.1609, found 456.1627.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | 5-bromo-3,6-diethyl-N-(5-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | BrC=1N=C(C(=NC1CC)NC1CCCC2=C(C=CC=C12)OC)CC | C19H24BrN3O
product | 5-(2,4-dichlorophenyl)-3,6-diethyl-N-(5-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)NC1CCCC2=C(C=CC=C12)OC)CC | C25H27Cl2N3O
